US06951881B2
Preparation of 2-(2-Phenyl-1H-indol-3-ylmethylene)hydrazinecarboximidamide
A mixture of DMF (11.0 mL, 142 mmol) and phosphorous oxychloride (3.63 mL, 39 mmol) is stirred at 0° C. for 1 h, a 0.2 mL portion is pipetted into a solution of 2-phenylindole (96 mg, 0.5 mmol) in DMF at 5° C. This reaction mixture is stirred at 5°-10° C. for 1 h, quenched with water, stored at −200 for 16 h and filtered. The filtercake is washed with water and dried in vacuo to afford the 2-phenylindole-3-carboxaldehyde intermediate. A suspension of the thus-obtained 2-phenylindole-3-carboxaldehyde (44.2 mg, 0.2 mmol) in isopropanol and concentrated HCl (50 μL) is treated with aminoguanidine bicarbonate (27 mg, 0.2 mmol), heated at 80° C. for 2 h, cooled to room temperature and concentrated in vacuo. The resultant residue is purified by HPLC to afford the title product, 28 mg (20% yield), identified by mass spectral and HPLC analyses (M+H) 277; retention time 3.76 min.

reactant | 2-phenylindole-3-carboxaldehyde | 0.2 mmol, 44.2 mg | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1C=O | C15H11NO
reactant | aminoguanidine bicarbonate | 0.2 mmol, 27 mg | C(O)(O)=O.NNC(=N)N
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | HCl | 50 μL | Cl | ClH
product | 2-(2-Phenyl-1H-indol-3-ylmethylene)hydrazinecarboximidamide | 20% yield | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1C=NNC(N)=N | C16H15N5
